US08633182B2
Step 2: (1R,2R)-2-(4-Hydroxy-phenyl)-cyclopropanecarboxylic acid ethyl ester.
(1R,2R)-2-(4-tert-Butoxy-phenyl)-cyclopropanecarboxylic acid ethyl ester (5.9 g, 22.5 mmol) is cooled to 0° C. and trifluoroacetic acid (14 mL, 182.5 mmol) is added. The mixture is stirred for 5 minutes and then concentrated under vacuum. The residue is reevaporated 3 times from dichloromethane then purified by flash chromatography (0-10% ethyl acetate in cyclohexane) to give the title compound (yield 3.10 g).

reactant | (1R,2R)-2-(4-tert-Butoxy-phenyl)-cyclopropanecarboxylic acid ethyl ester | 22.5 mmol, 5.9 g | C(C)OC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)OC(C)(C)C | C16H22O3
reactant | trifluoroacetic acid | 182.5 mmol, 14 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (1R,2R)-2-(4-Hydroxy-phenyl)-cyclopropanecarboxylic acid ethyl ester | yield 3.10 g | C(C)OC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)O | C12H14O3
